US06936732B2
Preparation of 2,4-Dihydroxybenzene sulphonic Acid
15.0 g (0.136 moles) of resorcinol, 102 g dimethyl carbonate and 68 g cyclohexane were charged under nitrogen to a 4-necked one litre reactor fitted with stirrer, thermometer and condenser attached to an HCl scrubber system. The reaction mixture was heated to 60° C. and 15.1 g (0.13 moles) of chlorosulphonic acid added over a period of 4 h with removal of hydrogen chloride gas. On completion of the addition, the reaction mixture is heated to 70-72° C. for 1 h, and then cooled to 20° C. The reaction mixture separated into two layers with the lower layer containing 2,4-dihydroxybenzene sulphonic Acid (63.2% by hplc) and resorcinol (31.5% by hplc).

reactant | resorcinol | 0.136 moles, 15.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | dimethyl carbonate | 102 g | C(OC)(OC)=O | C3H6O3
reactant | HCl | Cl | ClH
reactant | chlorosulphonic acid | 0.13 moles, 15.1 g | ClS(=O)(=O)O | ClHO3S
solvent | cyclohexane | 68 g | C1CCCCC1 | C6H12
product | 2,4-Dihydroxybenzene sulphonic Acid | OC1=C(C=CC(=C1)O)S(=O)(=O)O | C6H6O5S
